US04193922
4-(3-Chlorophenyl)-5,5-dimethyl-1,2,4-oxadiazolidine-3-one
18.6 g. (0.1 moles) of N-(3-chlorophenyl)-N'-hydroxy-urea are added to 130 g. of acetone. The mixture is stirred for 15 minutes at the temperature of the water bath under reflux. The reaction mixture is then evaporated to dryness and the residue is recrystallized from the mixture of acetone and water.

reactant | N-(3-chlorophenyl)-N'-hydroxy-urea | 0.1 moles | ClC=1C=C(C=CC1)NC(=O)NO | C7H7ClN2O2
reactant | acetone | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 4-(3-Chlorophenyl)-5,5-dimethyl-1,2,4-oxadiazolidine-3-one | ClC=1C=C(C=CC1)N1C(NOC1(C)C)=O | C10H11ClN2O2
